US04774248
289 ml (0.866 mol) of a 3M solution of phenylmagnesium bromide in ether are run, over a period of 1.50 h, into a solution of 100 g (0.787 mol) of 1,3-dichloroacetone in 1000 ml of anhydrous ether under a nitrogen atmosphere and at -60° C. After 10 minutes, a solution of 83.5 g of acetic acid in 126 ml of ether is added to the reaction medium. The temperature is allowed to rise to +4° C. and 315 ml of water are run in. The ether phase is decanted, washed with water and dried over MgSO4. It is filtered, the filtrate is evaporated to dryness and the evaporation residue is distilled in vacuo to give 82.3 g (yield: 51%) of 1,3-dichloro-2-phenylpropan-2-ol. B.p. (0.5 mm Hg)=102° C. (0.5 mm Hg corresponds to 66.6 Pa).

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 1,3-dichloroacetone | 0.787 mol, 100 g | ClCC(=O)CCl | C3H4Cl2O
reactant | acetic acid | 83.5 g | C(C)(=O)O | C2H4O2
reactant | water | 315 ml | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | ether | 126 ml | CCOCC | C4H10O
product | 1,3-dichloro-2-phenylpropan-2-ol | 82.3 g, yield: 51% | ClCC(CCl)(O)C1=CC=CC=C1 | C9H10Cl2O
